US04767743
E1. 3-(R)-methylglutaric acid mono methyl ester
To a 5 1. four necked flask fitted with a stirred and pH electrode was added 2.5 1. of 0.1M potassium acid phosphate buffer pH 7.0 followed by 150 mg. of pig liver esterase and 150 g. of dimethyl 3-methylglutarate. The pH of the mixture was maintained at about 6.85 by periodic addition of a 10% potassium carbonate solution. After 2.5 hours the reaction was acidified with 10% hydrochloric acid to pH 2.0 and the product extracted with diethyl ether. The extracts were combined, dried over magnesium sulfate and concentrated in vacuo to give 114 g. of the desired product, [alpha]D =-1.48 (CH3OH C=0.086 g/ml).

reactant | potassium acid phosphate | 0.1M, pH 7.0 | OP(=O)(O)[O-].[K+]
reactant | dimethyl 3-methylglutarate | CC(CC(=O)OC)CC(=O)OC | C8H14O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | CH3OH | CO | CH4O
product | 3-(R)-methylglutaric acid mono methyl ester | COC(C[C@@H](CC(=O)O)C)=O | C7H12O4
